US07544835B2
2-Isopropoxy-3-{3-[({[4-(trifluoromethyl)anilino]carbonyl}-oxy)methyl]phenyl}propanoic acid
To 149 mg of Ethyl 2-isopropoxy-3-{3-[({[4-(trifluoromethyl)anilino]carbonyl}-oxy)methyl]phenyl}propanoate were added 4 ml of ethanol and 1.0 ml of 5N sodium hydroxide aqueous solution, and the mixture was stirred at room temperature for 20 hours. After the reaction solution was diluted with water, pH was adjusted to 5 with 5N hydrochloric acid, and the solution was diluted with ethyl acetate and saturated aqueous ammonium chloride. The organic layer was washed with saturated aqueous ammonium chloride, dried over anhydrous sodium sulfate, and concentrated. The residue was purified by silica gel column chromatography, to give 26 mg of the title compound.

reactant | Ethyl 2-isopropoxy-3-{3-[({[4-(trifluoromethyl)anilino]carbonyl}-oxy)methyl]phenyl}propanoate | 149 mg | C(C)(C)OC(C(=O)OCC)CC1=CC(=CC=C1)COC(=O)NC1=CC=C(C=C1)C(F)(F)F | C23H26F3NO5
reactant | ethanol | 4 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 5N, 1.0 ml | [OH-].[Na+]
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ammonium chloride | [Cl-].[NH4+]
product | 2-Isopropoxy-3-{3-[({[4-(trifluoromethyl)anilino]carbonyl}-oxy)methyl]phenyl}propanoic acid | 26 mg | C(C)(C)OC(C(=O)O)CC1=CC(=CC=C1)COC(=O)NC1=CC=C(C=C1)C(F)(F)F | C21H22F3NO5
